data/oMe_Silver.jsonl
{"reaction_id": "NR-308_1-C(F)(F)F","level": "medium","name": "Tollens Oxidation","reactants_smiles": ["O=CC(F)(F)F","O","[Ag+](N)N"],"products_smiles": ["O=C(O)(C(F)(F)F)","[Ag]"],"conditions": "Aqueous Ammonia","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O([Ag](N)(N))C([OH2+])C(F)(F)F","step_weight": 0,"rationale": "The carbonyl carbon of the aldehyde is electrophilic due to the polar C=O bond, allowing nucleophilic attack by the oxygen ligand of the diamminesilver complex under basic aqueous conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O([Ag](N)(N))C(O([Ag](N)(N)))C(F)(F)F","step_weight": 0,"rationale": "Proton transfer stabilizes the addition intermediate by deprotonating the oxonium species, favored in basic ammonia solution, yielding a more stable alkoxide coordinated to silver."},{"step": 3,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "[O]C(O([Ag](N)(N)))C(F)(F)F","step_weight": 0,"rationale": "Homolytic cleavage of the Ag–O bond occurs as silver is reduced, facilitated by the high reduction potential of Ag+ and the stability of the resulting oxygen-centered radical intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O[C](O([Ag](N)(N)))C(F)(F)F","step_weight": 0,"rationale": "A 1,2-shift rearranges the radical center to the carbon, driven by the formation of a more stable carbon-centered intermediate and relief of electron deficiency at oxygen."},{"step": 5,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "O=C(O)C(F)(F)F","step_weight": 0,"rationale": "Final homolytic cleavage of the C–O bond to silver releases the oxidized carboxylate product, favored by the stability of the carboxylate anion in aqueous ammonia and precipitation of metallic silver."}],"description": "In Tollens oxidation, the aldehyde undergoes nucleophilic addition by the diamminesilver(I) complex in aqueous ammonia, followed by proton transfers and oxidative steps that convert it into a carboxylate, with concurrent reduction of silver ions to metallic silver."}
{"reaction_id": "NR-323_1-C(C)(C)C_2-c1ccccc1_3-C_4-C(F)(F)F_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_6-C(C)(C)C","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(C(C)(C)C)(c1ccccc1)=C(C)C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)OCC(C)(C)C","CCCC[Li]"],"products_smiles": ["OC(C(C)(C)C)C(C(C)(C)C)(c1ccccc1)C(C)=C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(c1ccccc1)=C(C)C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O[CH-]C(C)(C)C","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(C(C)(C)C)C(C(C)(C)C)(c1ccccc1)C(C)=C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(C)(C)C)C(C(C)(C)C)(c1ccccc1)C(C)=C(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
